US05618985
The molar ratio of the 2-ethyl hexanal to the formaldehyde, used as the initial materials of the reaction, should be within the range 1:2 to 1:4, preferably within the range 1:2.5 to 1:3.5. To the mixture is added a neutral or cationic phase transfer catalyst, such as neutral polyethylene glycol (e.g. PEG 400) or a cationic tetrabutylammoniumhydrogen sulfate (TBAHSO4) or tricaprylmethylammonium chloride (Aliquat 336). These are added in an amount of 1-50% by weight, preferably 5-30% by weight, of the mass of the formalin solution or, if solid paraformaldehyde is used, in an amount of 1-20% by weight, preferably 3-10% by weight, of the mass of the aqueous solution and solid paraformaidehyde, or in an amount of 1-50% by weight, preferably 5-15% by weight, of the amount of 2-ethyl hexanal. The mixture of the initial materials is heated to 30°-100° C., preferably to 50°-80° C., and most preferably to 60°-80° C., and an aqueous solution of the alkali metal hydroxide or earth alkali metal hydroxide is added to the mixture, drop by drop, in the course of up to 5 h, preferably 1-3 h, and the reaction is continued at the said temperature for up to 3 h, preferably 15 min-2 h, most preferably 15 min-1 h 15 min. The alkali metal hydroxide or earth alkali metal hydroxide is used in a molar amount 1:1 to 2:1, preferably in a molar amount of 1.25:1 to 1.75:1 to that of 2:1-ethyl hexanal. After this reaction step the mixture is neutralized with an organic acid or a mineral acid, preferably for example sulfuric acid, and the phases are separated from each other, preferably while they are hot. The organic phase is washed with water once or several times, preferably 1-2 times, by using for the wash an amount of water at minimum 50% of the mass of the organic phase. The phases are separated and the organic phases are combined and vacuum distilled. The boiling point of the final product is 130°-132° C./9 mmHg. The yield obtained for 2-n-butyl-2-ethyl-1,3-propane diol was up to more than 92%, depending on the reaction conditions and the molar proportions.

reactant | 2-ethyl hexanal | C(C)C(C=O)CCCC | C8H16O
reactant | formaldehyde | C=O | CH2O
reactant | 1-ethyl hexanal | C(C)C(CCCCC)=O | C8H16O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
catalyst | tetrabutylammoniumhydrogen sulfate | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | tricaprylmethylammonium chloride | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | 2-n-butyl-2-ethyl-1,3-propane diol | C(CCC)C(CO)(CO)CC | C9H20O2
